US05856309
To an ice-cooled solution of 4.13 g (20.7 mmol) 3-hydroxymethyl-2,5-dihydro-pyrrole-1-carboxylic acid tert-butylester and 244 mg (2 mmol) DMAP in 50 ml pyridine was added 3.06 g (30 mmol) acetic anhydride. The mixture was stirred for 30 min at 0° C., then for additional 60 min at room temperature. The mixture was poured on ice and extracted twice with ether. The combined organic layers were evaporated in vacuo, dissolved in ether, washed with sat. CuSO4, water and brine and dried over MgSO4. Evaporation and bulb-to-bulb distillation gave 4.82 g (97%) 3-acetoxymethyl-2,5-dihydro-pyrrole-1-carboxylic acid tert.-butylester as a colorless oil, b.p. 105° C. (0.2 mbar).

reactant | 3-hydroxymethyl-2,5-dihydro-pyrrole-1-carboxylic acid tert-butylester | 20.7 mmol, 4.13 g | C(C)(C)(C)OC(=O)N1CC(=CC1)CO | C10H17NO3
reactant | acetic anhydride | 30 mmol, 3.06 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 2 mmol, 244 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-acetoxymethyl-2,5-dihydro-pyrrole-1-carboxylic acid tert.-butylester | 4.82 g, 97% | C(C)(C)(C)OC(=O)N1CC(=CC1)COC(C)=O | C12H19NO4
